### PR TITLE
Prove apply_eq_one_of_tendsto_of_gt

### PR DESCRIPTION
**Pull request by l-oksanen**
* Added proof of `apply_eq_one_of_tendsto_of_gt`
* Fixed a misprint, `G` changed to `G'`, in the formulation of `apply_eq_one_of_tendsto_of_gt`, `apply_eq_zero_of_tendsto_of_lt`, and `isDegenerate_of_tendsto_shrinking`, as well as in the proof of `isDegenerate_of_tendsto_shrinking`
* Fixed a misprint, `a_n \to 1` changed to `a_n \to 0`, in `lem:degenerate-shrinking-limit` in the blueprint

### CODE REVIEW

File: ExtremeValueProject/TypeOfCDF.lean [hunk 1]
```diff
@@ -72,8 +72,105 @@ lemma apply_eq_one_of_tendsto_of_gt
...
+        have := a_pos n
+        field_simp
+      _ ≤ F' n x' := (F' n).mono' (by linarith)
+    linarith
+  have : G' x ≥ 1 := by
+    by_contra
+    have := this ((1 - G' x) / 2) (by linarith)
+    linarith
+  have : G' x ≤ 1 := by exact apply_le_one G' x
+  linarith
```
Comment (kkytola) [inline ExtremeValueProject/TypeOfCDF.lean:173]: Great, thanks for the corrections!

If one embraces filters (which are often the Lean-idiomatic way of saying "for all sufficiently large n" etc.), then the steps of your proof become:

```suggestion
    have dense_cont_pts (H : CumulativeDistributionFunction) : Dense {x | ContinuousAt H x} := by
      simpa [compl] using dense_compl (𝕜 := ℝ) (countable_not_continuousAt H.mono')

    -- Choose `x'` s.t. `β < x' < x` and `G'` is continuous at `x'`
    obtain ⟨x', ⟨x'_gt, x'_lt⟩, x'_cont⟩ :=
      (dense_cont_pts G').inter_open_nonempty (Ioo β x) isOpen_Ioo (nonempty_Ioo.mpr x_gt)
    simp only [mem_setOf_eq] at x'_cont

    -- Choose `z'` s.t. `G(z') > 1 - ε'` where `ε' := ε/2`
    set ε' := ε/2 with hε'
    have G_lim := G.tendsto_atTop (show Ioi (1-ε') ∈ 𝓝 1 from Ioi_mem_nhds (by linarith))
    simp only [mem_map, mem_atTop_sets, ge_iff_le, mem_preimage, mem_Ioi] at G_lim
    obtain ⟨z', hz'⟩ := G_lim
    specialize hz' z' le_rfl

    -- Choose `z` s.t. `G(z) > 1 - ε'` and `G` is continuous at `z`
    obtain ⟨z, z_gt, z_cont⟩ :=
      (dense_cont_pts G).inter_open_nonempty {z | z' < z} isOpen_Ioi nonempty_Ioi
    simp only [mem_setOf_eq] at z_gt z_cont
    have Gz_gt : 1 - ε' < G z := hz'.trans_le <| G.mono (by linarith)

    -- `Aₙ(z) → β`
    have : Tendsto (λ n ↦ a n * z) atTop (𝓝 (0 * z)) := a_lim.mul_const z
    simp only [zero_mul] at this
    have A_lim : Tendsto (λ n ↦ a n * z + b n) atTop (𝓝 (0 + β)) := this.add b_lim
    simp only [zero_add] at A_lim

    -- `Aₙ(z) < x'` for large `n`
    have Anz_ev_lt : ∀ᶠ n in atTop, a n * z + b n < x' := by
      filter_upwards [A_lim (Iio_mem_nhds x'_gt)] with n hn using hn

    -- `1 - ε' < Fₙ(z)` for large `n`
    have Fnz_ev_gt : ∀ᶠ n in atTop, 1 - ε' < F n z := by
      filter_upwards [F_lim z z_cont (Ioi_mem_nhds Gz_gt)] with n hn using hn

    -- Shorthand `Fₙ' = Aₙ.Fₙ`
    set F' : ℕ → CumulativeDistributionFunction :=
      fun n ↦ (mkOfCoefs (a_pos n) (b n)) • (F n) with hF'

    -- Assume the opposite to get `Fₙ'(x') < 1 - ε'` for large `n`
    by_contra con
    have F'nx'_ev_gt : ∀ᶠ n in atTop, F' n x' < 1 - ε' := by
      filter_upwards
        [F_lim' x' x'_cont (Iio_mem_nhds (show G' x' < 1 - ε' by linarith [G'.mono x'_lt.le]))]
        with n hn using hn

    obtain ⟨n, ⟨hn₁, hn₂⟩, hn₃⟩ := (((Fnz_ev_gt).and (Anz_ev_lt)).and F'nx'_ev_gt).exists

    -- Contradiction `1 - ε' < Fₙ(z) ≤ Fₙ'(x') < 1 - ε'`
    have := calc
      (F n) z = F' n (a n * z + b n) := by
        rw [← mulAction_apply_eq_self_apply (F n) (mkOfCoefs (a_pos n) (b n))]
        rfl
      _ ≤ F' n x' := (F' n).mono' (by linarith)
    linarith

  have : G' x ≥ 1 := by
    by_contra
    linarith [this ((1 - G' x) / 2) (by linarith)]
  linarith [apply_le_one G' x]
```

**Comment by kkytola** [comment]
Thank you for the proof and the corrections! I left a suggestion about alternative spellings in your proof (with more use of filters). I can merge either way, but I think a few of the streamlinings may be worth incorporating in the proof.

Do you also want to do the similar `apply_eq_zero_of_tendsto_of_lt`, maybe in a separate PR?  I think it should be mostly copy-paste from your current proof. (Or shall we leave it for someone else to adapt your proof to that similar case?) That would actually finish Lemma 7.3. (One would get to uncomment `\leanok` in the proof and the colors. Actually the `\uses{}` should probably also be updated to mention Lemma 4.2., to more accurately reflect what the proof uses.)

**Comment by l-oksanen** [comment]
Thanks a lot for the suggestion. This is very instructive. (I should have done the homework before this PR, thanks for the patience.)

I will look at `apply_eq_zero_of_tendsto_of_lt` in a separate PR. I wonder if there is a way to reduce lt to gt via `1 - F(-x)`. The right continuity might be an issue, though.

**Comment by kkytola** [comment]
> Reopened as the following ugly line started to bother me:
> 
> https://github.com/l-oksanen/ExtremeValueProject/blob/9e6db8d5b608d118ddc0836c8829094977dd5aaa/ExtremeValueProject/TypeOfCDF.lean#L89
> 
> Rewrote it the using `filter_upwards`. This is now in line with the update by @kkytola.

Brilliant! I also felt this needed to be done cleaner, but didn't yet see what is the best way. Much better like this.

Thank you! (I will merge the PR now.)
